US09278951B2
Synthesis of 1-(anthracen-2-ylmethyl)-3-(napthalen-2-ylmethyl)-4,5-dichloroimidazolium bromide
4,5-Dichloroimidazole (0.18 g, 1.33 mmol) and potassium hydroxide (0.08 g, 1.46 mmol) will be dissolved in a minimum volume of acetonitrile and stirred at reflux for 30 min. 2-(Bromomethyl)anthracene (2.71 g, 10.0 mmol) will be added and the mixture will be returned to reflux for 3 h. The mixture will be filtered hot to remove the KBr generated. 2-(Bromomethyl)naphthalene (2.21 g, 10.0 mmol) will be added to the filtrate and the mixture will be returned to reflux for 6 h. The volatile components will be removed under reduced pressure to yield the product.

reactant | 4,5-Dichloroimidazole | 1.33 mmol, 0.18 g | ClC=1N=CNC1Cl | C3H2Cl2N2
reactant | potassium hydroxide | 1.46 mmol, 0.08 g | [OH-].[K+]
reactant | 2-(Bromomethyl)anthracene | 10.0 mmol, 2.71 g | BrCC1=CC2=CC3=CC=CC=C3C=C2C=C1 | C15H11Br
reactant | 2-(Bromomethyl)naphthalene | 10.0 mmol, 2.21 g | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-(anthracen-2-ylmethyl)-3-(napthalen-2-ylmethyl)-4,5-dichloroimidazolium bromide | [Br-].C1=C(C=CC2=CC3=CC=CC=C3C=C12)C[N+]1=CN(C(=C1Cl)Cl)CC1=CC2=CC=CC=C2C=C1 | InChI=1S/C29H21Cl2N2.BrH/c30-28-29(31)33(19-32(28)17-20-9-11-22-5-1-2-6-23(22)13-20)18-21-10-12-26-15-24-7-3-4-8-25(24)16-27(26)14-21;/h1-16,19H,17-18H2;1H/q+1;/p-1
